US06784192B2
[[(2-(Cyclohexylmethyloxy)phenyl)methyl]triphenylphosphonium chloride
3.06 g of 2-(cyclohexylmethyloxy)benzyl alcohol was dissolved in 30 ml of toluene, 1.52 ml of thionyl chloride and 5 drops of N,N-dimethylformamide were added thereto and the mixture was stirred for 70 minutes under ice-cooling. An aqueous sodium carbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solution was filtered through alumina, and the solvent was evaporated, to give a slight yellow oil. The oil was dissolved in 3 ml of acetonitrile, 3.65 g of triphenylphosphine was added thereto, and the mixture was stirred at 110° C. for one hour and 45 minutes. Ethyl acetate was added to the reaction solution and the product was collected by filtration, to give 6.51 g of the title compound as a white powder.

reactant | 2-(cyclohexylmethyloxy)benzyl alcohol | 3.06 g | C1(CCCCC1)COC1=C(CO)C=CC=C1 | C14H20O2
reactant | thionyl chloride | 1.52 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 3.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(2-(Cyclohexylmethyloxy)phenyl)methyl]triphenylphosphonium chloride | 6.51 g | [Cl-].C1(CCCCC1)COC1=C(C=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C32H34OP.ClH/c1-5-15-27(16-6-1)25-33-32-24-14-13-17-28(32)26-34(29-18-7-2-8-19-29,30-20-9-3-10-21-30)31-22-11-4-12-23-31;/h2-4,7-14,17-24,27H,1,5-6,15-16,25-26H2;1H/q+1;/p-1
